US04983619
(ii) 1-(N,N-Dimethylamino)-3-(4-(1,1-dimethylethyl) phenyl)prop-1-en-3-one
To 4-(1,1-Dimethylethyl)phenylmethyl ketone (5 g) in absolute ethanol (50 ml) heated to 80° C. with stirring was added N,N-dimethylformamide diethyl acetal (5.01 g) in absolute ethanol (2.5 ml) dropwise over 5 minutes, heated under reflux with stirring overnight and the reaction followed by tlc. The excess ethanol was removed under reduced pressure to give a brown oil which was cooled in cardice to give a yellow solid. The product was recrystallised from petroleum ether 40°-60° C.

reactant | 4-(1,1-Dimethylethyl)phenylmethyl ketone | 5 g | CC(C)(C)C1=CC=C(C=C1)CC(=O)CC1=CC=C(C=C1)C(C)(C)C | C23H30O
reactant | N,N-dimethylformamide diethyl acetal | 5.01 g | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | cardice | C(=O)=O | CO2
product | 1-(N,N-Dimethylamino)-3-(4-(1,1-dimethylethyl) phenyl)prop-1-en-3-one | CN(C)C=CC(=O)C1=CC=C(C=C1)C(C)(C)C | C15H21NO
